US08404859B2
Preparation of 3-Chloro-5-methyl-thiophene-2-carboxylic acid methyl ester
A mixture of 3-Amino-5-methyl-thiophene-2-carboxylic acid methyl ester (5.0 g, 29.2 mmol) in 6N HCl (25 ml) was cooled to 0° C. (ice bath). A solution of sodium nitrite (2.01 g, 29.2 mmol) in water (5 ml) was added dropwise and the mixture was stirred at 0° C. for 60 min This mixture was then added to a solution of copper(I)chloride (2.89 g, 29.2 mmol) in conc. HCl (25 ml) at 0° C. The reaction mixture was stirred at room temperature then warmed to 65° C. until gas evolution had ceased. The reaction mixture was diluted with water and extracted with EtOAc (2×150 mL), washed with water, brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by column (0-30% EtOAc in hexane) to give 4.4 g (79%) yellow oil product.

reactant | 3-Amino-5-methyl-thiophene-2-carboxylic acid methyl ester | 29.2 mmol, 5.0 g | COC(=O)C=1SC(=CC1N)C | C7H9NO2S
reactant | sodium nitrite | 29.2 mmol, 2.01 g | N(=O)[O-].[Na+]
reactant | HCl | 6N, 25 ml | Cl | ClH
reactant | HCl | 25 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
catalyst | copper(I)chloride | 29.2 mmol, 2.89 g | [Cu]Cl
product | 3-Chloro-5-methyl-thiophene-2-carboxylic acid methyl ester | 4.4 g, 79% | COC(=O)C=1SC(=CC1Cl)C | C7H7ClO2S
